US04762942
1-Hexyl-2-[2-(phenylmethoxy)-3-(triphenylmethoxy)propoxy]-4-tetradecylbenzene
A 13.8 g portion of 1-(2-hexyl-5-tetradecylphenoxy)-3-(triphenylmethoxy)-2-propanol in 40 ml of dimethylformamide was added dropwise to a suspension of 14.5 g of prewashed 50% sodium hydride in 40 ml of dimethylformamide and the mixture was stirred 15 minutes. A 4.45 g portion of benzyl bromide was added and the mixture was stirred an additional 3 hours. This mixture was quenched slowly with water and then extracted several times with ether. The ether extracts were combined, washed with water, brine, dried and evaporated giving 15 g of the desired compound.

reactant | 1-(2-hexyl-5-tetradecylphenoxy)-3-(triphenylmethoxy)-2-propanol | C(CCCCC)C1=C(OCC(COC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)O)C=C(C=C1)CCCCCCCCCCCCCC | C48H66O3
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-Hexyl-2-[2-(phenylmethoxy)-3-(triphenylmethoxy)propoxy]-4-tetradecylbenzene | 15 g | C(CCCCC)C1=C(C=C(C=C1)CCCCCCCCCCCCCC)OCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OCC1=CC=CC=C1 | C55H72O3
